US08119617B2
1.06 mmol of 4′-(octyloxy)-4-biphenyl-carboxylic acid, 1.06 mmol of EDC and 1.06 mmol DIPEA are added to a mixture of 0.53 mmol of 5-(3-amino-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one and 0.11 mmol of HOAt in 6 ml of a DMF/toluene-mixture. The mixture obtained is stirred at rt for 18 hours, diluted with EtOAc and toluene and a precipitate is obtained and filtered off. 4′-Octyloxy-biphenyl-4-carboxylic acid [3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)phenyl]-amide in solid form is obtained. The filtrate obtained is washed with HCl (1M) and brine, the organic layer is dried and solvent is evaporated. Further 4′-octyloxy-biphenyl-4-carboxylic acid [3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-amide is obtained.

reactant | 4′-(octyloxy)-4-biphenyl-carboxylic acid | 1.06 mmol | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C21H26O3
reactant | EDC | 1.06 mmol
reactant | DIPEA | 1.06 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-(3-amino-phenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.53 mmol | NC=1C=C(C=CC1)N1CC(NS1(=O)=O)=O | C8H9N3O3S
reactant | HOAt | 0.11 mmol | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF toluene | 6 ml | CN(C)C=O.C1(=CC=CC=C1)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4′-Octyloxy-biphenyl-4-carboxylic acid [3-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)phenyl]-amide | O=S1(N(CC(N1)=O)C=1C=C(C=CC1)NC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OCCCCCCCC)=O | C29H33N3O5S
